US07405236B2
d] (6-{Methyl-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynoyl]-amino}-indol-1-yl)-acetic acid
In analogy to the procedure described in example 8 d], {6-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynoylamino]-indol-1-yl}-acetic acid ethyl ester was reacted with methyl iodide in the presence of sodium hydride to give the title compound as brown liquid.

reactant | {6-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynoylamino]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)NC(CCC#CC1=CC=C(C=C1)OC(F)(F)F)=O)=O | C24H21F3N2O4
reactant | methyl iodide | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
product | (6-{Methyl-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynoyl]-amino}-indol-1-yl)-acetic acid | CN(C1=CC=C2C=CN(C2=C1)CC(=O)O)C(CCC#CC1=CC=C(C=C1)OC(F)(F)F)=O | C23H19F3N2O4
